US05391817
A solution of 2-adamantyl-5-iodophenol (7.70 g, 21.7 mmol) in acetone (100 mL) was treated with dimethylsulfate (4.11 g, 32.6 mmol) and potassium carbonate (4.50 g, 32.6 mmol). The reaction mixture was stirred at reflux for 24 h, allowed to cool to room temperature, and concentrated in vacuo. The crude product was partitioned between methylene chloride and water. The organic phase was dried over anhydrous magnesium sulfate, filtered, and concentrated to provide 6.5 g (81%) of 2-adamantyl-5-iodoanisole; 1H NMR (300 MHz, CDCl3) δ 7.22 (dd, J=2, 8 Hz, 1H, ArH), 7.10 (d, J=2 Hz, 1H, ArH), 6.89 (d, J=8 Hz, 1H, ArH), 3.79 (s, 3H, OCH3), 2.02 (s, 9H, adamantyl), and 1.73 (s, 6H, adamantyl); 13C NMR (75 MHz, CDCl3) δ 159.35, 138.43, 129.63, 128.25, 120.75, 91.20, 55.22 (OCH3), 40.35, 37.02, 36.92, and 28.97; MS (DCI) m/e 369 (MH+), 368 (M+), 367 (M--H)+, 135 (C10H15+). Anal. Calcd for C17H21OI: C, 55.45; H, 5.75. Found: C, 55.51; H, 5.81.

reactant | 2-adamantyl-5-iodophenol | 21.7 mmol, 7.70 g | C12C(C3CC(CC(C1)C3)C2)C2=C(C=C(C=C2)I)O | C16H19IO
reactant | dimethylsulfate | 32.6 mmol, 4.11 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 32.6 mmol, 4.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2-adamantyl-5-iodoanisole | 6.5 g, 81% | C12C(C3CC(CC(C1)C3)C2)C2=C(C=C(C=C2)I)OC | C17H21IO
